US07585885B2
N-Methyl-N-propyl-5-(2,2,2-trifluoroacetyl)-isophthalamic acid ethyl ester
Treat a solution of N-methyl-N-propyl-5-(2,2,2-trifluoro-1-hydroxyethyl)-isophthalamic acid ethyl ester (1.8 mmol) in dichloromethane (20 mL) with Dess-Martin reagent at room temperature for 2 h. Quench with 10% aqueous sodium sulfite and extract with ethyl acetate (100 mL). Wash the organic layer with 10% aqueous sodium sulfite, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 60:40 ethyl acetate:hexanes) to give the title compound (330 mg) which is contaminated with recovered N-methyl-N-propyl-5-(2,2,2-trifluoro-1-hydroxyethyl)-isophthalamic acid ethyl ester in a ratio of about 4:1).

reactant | N-methyl-N-propyl-5-(2,2,2-trifluoro-1-hydroxyethyl)-isophthalamic acid ethyl ester | 1.8 mmol | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(C(F)(F)F)O)=O | C16H20F3NO4
reactant | Dess-Martin reagent | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-Methyl-N-propyl-5-(2,2,2-trifluoroacetyl)-isophthalamic acid ethyl ester | 330 mg | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(C(F)(F)F)=O)=O | C16H18F3NO4
